US05102667
Following the procedure of Example 102 and using (3aRS,7aRS)-7,7-diphenyl-2-(2-hydroxyphenylacetyl)-4-perhydroisoindolone and 1-benzyloxy-2-chloroethane as starting materials, (3aRS,7aRS)-7,7-diphenyl-2-{2-[2-(2-hydroxyethoxy)phenyl]acetyl}-4-perhydroisoindolone (0.5 g) is obtained in the form of white crystals melting at 150° C.

reactant | (3aRS,7aRS)-7,7-diphenyl-2-(2-hydroxyphenylacetyl)-4-perhydroisoindolone | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)O)=O)=O)C1=CC=CC=C1 | C28H27NO3
reactant | 1-benzyloxy-2-chloroethane | C(C1=CC=CC=C1)OCCCl | C9H11ClO
product | (3aRS,7aRS)-7,7-diphenyl-2-{2-[2-(2-hydroxyethoxy)phenyl]acetyl}-4-perhydroisoindolone | 0.5 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OCCO)=O)=O)C1=CC=CC=C1 | C30H31NO4
